* 7th Order Chebyshev Filter with simplified op-amp
.subckt OPAMP1 inp inn vdd vss out
.param gain=9.626280807087587 rout=50
E1 out1 0 inp inn {gain}
Rout out1 out {rout}
.ends

* Input source
V1 in 0 AC 1
Vbias vbias 0 DC 2.5
Vpos vcc 0 DC 15
Vneg vee 0 DC -15

* First Stage
X11 2 1 vcc vee 3 OPAMP1
R14 in 2 45919.66357778336
R11 vbias 1 30402.103334426134
C11 vbias 3 7.617379112525516e-09
R13 3 4 15197.56045557108
R12 0 4 23214.11052285898
X12 5 4 vcc vee 6 OPAMP1
C12 0 5 1.7055500984446865e-10
R15 6 7 29528.98951617257
X13 out1 7 vcc vee out1 OPAMP1
R16 vcc 7 64827.56109772805

* Second Stage
X21 9 8 vcc vee 10 OPAMP1
R24 out1 9 50954.038102358056
R21 vbias 8 32671.37956171369
C21 vbias 10 7.606002060032613e-10
R23 10 11 17751.221298534187
R22 0 11 21318.164148872987
X22 12 11 vcc vee 13 OPAMP1
C22 0 12 1.379800161467305e-10
R25 13 14 2384.4689576491874
X23 out2 14 vcc vee out2 OPAMP1
R26 vcc 14 42015.88456294589

* Third Stage
X31 16 15 vcc vee 17 OPAMP1
R34 out2 16 84477.49124239506
R31 vbias 15 95006.44732398173
C31 vbias 17 8.347912683268763e-10
R33 17 18 29852.340940714734
R32 0 18 39788.78818882967
X32 19 18 vcc vee 20 OPAMP1
C32 0 19 8.469884098968315e-10
R35 20 21 5389.872995970691
X33 out3 21 vcc vee out3 OPAMP1
R36 vcc 21 15517.897307831441

* Output Stage
X41 output 22 vcc vee output OPAMP1
R41 out3 22 98585.1892960817
R42 0 22 96185.00329868011
C41 0 22 9.939403871027412e-09

* Analysis commands
.control
set units=degrees
ac dec 100 1 1MEG
wrdata filter_response.txt v(output)
quit
.endc
.end