* BSIM4 NMOS Model Entry Point
* Technology: 28nm
* Model Version: 4.8.1
* Date: 2025-01-11

.subckt nmos_28nm d g s b l=30n w=1u nf=1

* Include model library files
.include "libs/bsim4_core.lib"
.include "libs/bsim4_params.lib"

* Instance parameters
.param L_eff = 'L - 2*DL'
.param W_eff = 'W - 2*DW'
.param AD_eff = 'W_eff * 0.5u'
.param AS_eff = 'W_eff * 0.5u'
.param PD_eff = '2*(W_eff + 0.5u)'
.param PS_eff = '2*(W_eff + 0.5u)'

* Main transistor instance
M1 d g s b nmos_model L='L_eff' W='W_eff' AD='AD_eff' AS='AS_eff' PD='PD_eff' PS='PS_eff' NF='nf'

* Parasitic capacitances
Cgd_overlap g d 'CGDO*W_eff'
Cgs_overlap g s 'CGSO*W_eff'
Cgb_overlap g b 'CGBO*L_eff'

* Junction capacitances
Cjd d b junc_cap area='AD_eff' perim='PD_eff'
Cjs s b junc_cap area='AS_eff' perim='PS_eff'

* Temperature coefficient
.temp 27

* Model card reference
.model nmos_model nmos (
+ level = 54
+ version = 4.8.1
+ binunit = 1
+ paramchk = 1
+ mobmod = 0
+ capmod = 2
+ igcmod = 1
+ igbmod = 1
+ geomod = 1
+ diomod = 1
+ rdsmod = 0
+ rbodymod = 1
+ rgatemod = 1
+ permod = 1
+ acnqsmod = 0
+ trnqsmod = 0
)

.ends nmos_28nm

* End of file