* PSP PMOS Model Entry Point
* Technology: 40nm
* Model Version: 103.8
* Date: 2025-01-11

.subckt pmos_40nm d g s b l=40n w=2u mult=1

* Include model library files
.include "libs/psp103_core.lib"
.include "libs/psp_juncap.lib"

* Instance parameters
.param L_eff = 'L'
.param W_eff = 'W * mult'

* Main transistor instance
M1 d g s b pmos_model L='L_eff' W='W_eff' MULT='mult'

* Junction capacitances (JUNCAP2 model)
Djd d b pjunc area='W_eff*0.5u' perim='2*(W_eff+0.5u)'
Djs s b pjunc area='W_eff*0.5u' perim='2*(W_eff+0.5u)'

* Temperature
.temp 27

* Model card reference
.model pmos_model pmos (
+ level = 103
+ version = 103.8
+ tr = 27
+ mobmod = 1
+ capmod = 1
+ gidlmod = 1
+ gislmod = 1
+ swjuncap = 2
)

.ends pmos_40nm

* End of file