* Schottky Diode Model
* Technology: SiC
* Model Version: 2.1
* Date: 2025-01-11

.subckt schottky_sic anode cathode area=1e-6 temp=27

* Include model library
.include "libs/diode_core.lib"

* Main diode instance
D1 anode cathode schottky_model area='area' temp='temp'

* Series resistance
Rs anode anode_int 'RS*area'

* Model card
.model schottky_model d (
+ level = 3
+ is = 1e-12
+ n = 1.05
+ bv = 650
+ ibv = 1e-3
+ rs = 0.01
+ cjo = 1e-10
+ vj = 0.9
+ m = 0.5
+ eg = 3.3
+ xti = 2
+ tnom = 27
)

.ends schottky_sic

* End of file