* 7th Order Chebyshev Filter with simplified op-amp
.subckt OPAMP1 inp inn vdd vss out
.param gain=<<gain>> rout=50
E1 out1 0 inp inn {gain}
Rout out1 out {rout}
.ends

* Input source
V1 in 0 AC 1
Vbias vbias 0 DC 2.5
Vpos vcc 0 DC 15
Vneg vee 0 DC -15

* First Stage
X11 2 1 vcc vee 3 OPAMP1
R14 in 2 <<R14>>
R11 vbias 1 <<R11>>
C11 vbias 3 <<C11>>
R13 3 4 <<R13>>
R12 0 4 <<R12>>
X12 5 4 vcc vee 6 OPAMP1
C12 0 5 <<C12>>
R15 6 7 <<R15>>
X13 out1 7 vcc vee out1 OPAMP1
R16 vcc 7 <<R16>>

* Second Stage
X21 9 8 vcc vee 10 OPAMP1
R24 out1 9 <<R24>>
R21 vbias 8 <<R21>>
C21 vbias 10 <<C21>>
R23 10 11 <<R23>>
R22 0 11 <<R22>>
X22 12 11 vcc vee 13 OPAMP1
C22 0 12 <<C22>>
R25 13 14 <<R25>>
X23 out2 14 vcc vee out2 OPAMP1
R26 vcc 14 <<R26>>

* Third Stage
X31 16 15 vcc vee 17 OPAMP1
R34 out2 16 <<R34>>
R31 vbias 15 <<R31>>
C31 vbias 17 <<C31>>
R33 17 18 <<R33>>
R32 0 18 <<R32>>
X32 19 18 vcc vee 20 OPAMP1
C32 0 19 <<C32>>
R35 20 21 <<R35>>
X33 out3 21 vcc vee out3 OPAMP1
R36 vcc 21 <<R36>>

* Output Stage
X41 output 22 vcc vee output OPAMP1
R41 out3 22 <<R41>>
R42 0 22 <<R42>>
C41 0 22 <<C41>>

* Analysis commands
.control
set units=degrees
ac dec 100 1 1MEG
wrdata filter_response.txt v(output)
quit
.endc
.end