* 7th Order Chebyshev Filter with simplified op-amp
.subckt OPAMP1 inp inn vdd vss out
.param gain=11.457862669705063 rout=50
E1 out1 0 inp inn {gain}
Rout out1 out {rout}
.ends

* Input source
V1 in 0 AC 1
Vbias vbias 0 DC 2.5
Vpos vcc 0 DC 15
Vneg vee 0 DC -15

* First Stage
X11 2 1 vcc vee 3 OPAMP1
R14 in 2 22548.845030923403
R11 vbias 1 36577.9409763612
C11 vbias 3 3.3295593402898195e-09
R13 3 4 45713.334426367415
R12 0 4 27169.475829289335
X12 5 4 vcc vee 6 OPAMP1
C12 0 5 1.5268342378737604e-09
R15 6 7 24829.892244011608
X13 out1 7 vcc vee out1 OPAMP1
R16 vcc 7 94975.80087196504

* Second Stage
X21 9 8 vcc vee 10 OPAMP1
R24 out1 9 39483.35731426182
R21 vbias 8 17704.78014025019
C21 vbias 10 9.540005235068916e-09
R23 10 11 10830.819170199598
R22 0 11 92095.30295399525
X22 12 11 vcc vee 13 OPAMP1
C22 0 12 1.051029389705466e-09
R25 13 14 13140.054753322454
X23 out2 14 vcc vee out2 OPAMP1
R26 vcc 14 36894.892688682114

* Third Stage
X31 16 15 vcc vee 17 OPAMP1
R34 out2 16 89074.29146724711
R31 vbias 15 37997.591465315905
C31 vbias 17 7.878624893201207e-09
R33 17 18 52535.040258558394
R32 0 18 43797.40360609696
X32 19 18 vcc vee 20 OPAMP1
C32 0 19 5.232878767012134e-10
R35 20 21 4808.088428305434
X33 out3 21 vcc vee out3 OPAMP1
R36 vcc 21 2835.255425197386

* Output Stage
X41 output 22 vcc vee output OPAMP1
R41 out3 22 96169.61082891554
R42 0 22 99863.60081965072
C41 0 22 9.66681047945806e-09

* Analysis commands
.control
set units=degrees
ac dec 100 1 1MEG
wrdata filter_response.txt v(output)
quit
.endc
.end