* 7th Order Chebyshev Filter using UA741 op-amps

* UA741 Op-amp model
.model UA741 npn(Is=800.0E-18 Xti=3 Eg=1.11 Vaf=100 Bf=90 Ne=1.5 Ise=1.0E-16
+ Ikf=20 Xtb=1.5 Br=5 Nc=2 Isc=0 Ikr=0 Rc=0 Cjc=0 Mjc=.3333 Vjc=.75 Fc=.5
+ Cje=0 Mje=.3333 Vje=.75 Tr=10E-12 Tf=1.0E-9 Itf=1 Vtf=2 Xtf=6 Rb=0)
*
.subckt UA741    1   2   3   4   5
*
* connections:   non-inverting input
*                   |  inverting input
*                   |   |   positive power supply
*                   |   |   |   negative power supply
*                   |   |   |   |   output
*                   |   |   |   |   |
*                   1   2   3   4   5
*
  c1   11 12 8.661E-12
  c2    6  7 30.00E-12
  dc    5 53 dx
  de   54  5 dx
  dlp  90 91 dx
  dln  92 90 dx
  dp    4  3 dx
  egnd 99  0 poly(2) (3,0) (4,0) 0 .5 .5
  fb    7 99 poly(5) vb vc ve vlp vln 0 10.61E6 -10E6 10E6 10E6 -10E6
  ga    6  0 11 12 188.5E-6
  gcm   0  6 10 99 5.961E-9
  iee  10  4 dc 15.16E-6
  hlim 90  0 vlim 1K
  q1   11  2 13 qx
  q2   12  1 14 qx
  r2    6  9 100.0E3
  rc1   3 11 5.305E3
  rc2   3 12 5.305E3
  re1  13 10 1.836E3
  re2  14 10 1.836E3
  ree  10 99 13.19E6
  ro1   8  5 50
  ro2   7 99 100
  rp    3  4 18.16E3
  vb    9  0 dc 0
  vc    3 53 dc 1
  ve   54  4 dc 1
  vlim  7  8 dc 0
  vlp  91  0 dc 40
  vln   0 92 dc 40
.model dx D(Is=800.0E-18 Rs=1)
.model qx NPN(Is=800.0E-18 Bf=93.75)
.ends

* Input source
V1 in 0 AC 1
Vbias vbias 0 DC 2.5
Vpos vcc 0 DC 15
Vneg vee 0 DC -15

* First Stage
X11 2 1 vcc vee 3 UA741
R14 in 2 16.2k
R11 vbias 1 95.3k
C11 vbias 3 1200p
R13 3 4 16.9k
R12 0 4 16.9k
X12 5 4 vcc vee 6 UA741
C12 0 5 1200p
R15 6 7 10k
X13 out1 7 vcc vee out1 UA741
R16 vcc 7 10k

* Second Stage
X21 9 8 vcc vee 10 UA741
R24 out1 9 16.2k
R21 vbias 8 26.7k
C21 vbias 10 1800p
R23 10 11 16.2k
R22 0 11 16.2k
X22 12 11 vcc vee 13 UA741
C22 0 12 1800p
R25 13 14 10k
X23 out2 14 vcc vee out2 UA741
R26 vcc 14 10k

* Third Stage
X31 16 15 vcc vee 17 UA741
R34 out2 16 16.2k
R31 vbias 15 12.7k
C31 vbias 17 2200p
R33 17 18 16.2k
R32 0 18 16.2k
X32 19 18 vcc vee 20 UA741
C32 0 19 2200p
R35 20 21 10k
X33 out3 21 vcc vee out3 UA741
R36 vcc 21 10k

* Output Stage
X41 output 22 vcc vee output UA741
R41 out3 22 4.22k
R42 0 22 12.2k
C41 0 22 1200p

* Analysis commands
.control
set units=degrees
ac dec 100 1 1MEG
wrdata filter_response.txt v(output)
quit
.endc

.end